US06255349B1
[3-Chloro-4-(1H-pyrazol-3-yl)-phenyl]-carbamic acid tert-butyl ester
A solution of [3-chloro-4-(3-dimethylamino-acryloyl)-phenyl]-carbamic acid tert-butyl ester (250 mg) in ethanol (1.25 ml) is treated with hydrazine hydrate (0.25 ml) and the mixture is stirred at room temperature for 3 hours. The mixture is then diluted with 30 mL of diethyl ether, washed three times with water, once with saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate. The solvent is removed by evaporation under reduced pressure and the resulting residue is chromatographed over silica gel (67% ethyl acetate in hexanes is used as the eluant) to provide the desired product as an oil.

reactant | [3-chloro-4-(3-dimethylamino-acryloyl)-phenyl]-carbamic acid tert-butyl ester | 250 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1)C(C=CN(C)C)=O)Cl)=O | C16H21ClN2O3
reactant | hydrazine hydrate | 0.25 ml | O.NN
solvent | ethanol | 1.25 ml | C(C)O | C2H6O
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | [3-Chloro-4-(1H-pyrazol-3-yl)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1)C1=NNC=C1)Cl)=O | C14H16ClN3O2
